US04138485
Preparation of sodium N-(4-methylbenzylthiocarbonyl)-L-phenylalaninate
3.6 G (0.011 mol) of N-(4-methylbenzylthiocarbonyl)-L-phenylalanine was dissolved in 10 ml of acetone. To the mixture were added 30 ml of water and 10 ml of 1N-sodium hydroxide and then the mixture was stirred at room temperature for 1 to 2 minutes to obtain a transparent solution. After the solution was washed with 30 ml of ether twice, the water layer was evaporated under reduced pressure. To remove the remaining amounts of water from the residue, a small quantity of ethanol was added to the residue and then evaporated under reduced pressure. This operation was repeated three times. Thus, the residue was completely dried to obtain 3.4 g of white powder of the desired sodium salt.

reactant | N-(4-methylbenzylthiocarbonyl)-L-phenylalanine | 0.011 mol | CC1=CC=C(CC(=S)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C18H19NO2S
reactant | water | 30 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | sodium N-(4-methylbenzylthiocarbonyl)-L-phenylalaninate | 3.4 g | CC1=CC=C(CC(=S)N[C@@H](CC2=CC=CC=C2)C(=O)[O-])C=C1.[Na+] | InChI=1S/C18H19NO2S.Na/c1-13-7-9-15(10-8-13)12-17(22)19-16(18(20)21)11-14-5-3-2-4-6-14;/h2-10,16H,11-12H2,1H3,(H,19,22)(H,20,21);/q;+1/p-1/t16-;/m0./s1
